US07723321B2
STEP 5: Methyl 3-(3,5-difluorophenoxy)acrylate
A solution of 3,5-difluorophenol (35.5 g, 273 mmol) and methyl propiolate (25.0 mL, 300 mmol) in acetonitrile (109 mL) was added to a solution of tetrabutylammonium fluoride in tetrahydrofuran (1.0 M commercial solution, 109 mL, 109 mmol) at room temperature over a period of 2 hours. After complete addition of the solution, the mixture was stirred for 1 hour. The reaction mixture was diluted with toluene (350 mL) and the organic mixture was washed twice with water (250 mL×2), dried over magnesium sulfate, and concentrated in vacuum. The residue was purified by column chromatography on amino gel (hexane:ethyl acetate=3:2 as an eluent) to afford the title compound as a yellow solid (60.0 g, quant, 1:1 mixture of cis- and trans-isomers).

reactant | 3,5-difluorophenol | 273 mmol, 35.5 g | FC=1C=C(C=C(C1)F)O | C6H4F2O
reactant | methyl propiolate | 300 mmol, 25.0 mL | C(C#C)(=O)OC | C4H4O2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 109 mmol, 1.0 M, 109 mL | O1CCCC1 | C4H8O
solvent | acetonitrile | 109 mL | C(C)#N | C2H3N
solvent | toluene | 350 mL | C1(=CC=CC=C1)C | C7H8
product | Methyl 3-(3,5-difluorophenoxy)acrylate | 60.0 g | FC=1C=C(OC=CC(=O)OC)C=C(C1)F | C10H8F2O3
